2188-07-20 08:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 y.o. woman with metastatic renal cell carcinoma now POD #3 with
   acute on chronic respiratory failure, junky cough albeit she has been
   unable to raise phlegm.  Had a more acute decompensation of the floor
   earlier today with increased SOB, increased oxygen requirements which
   resolved with chest PT and nebs, impression was the she may have mucus
   plugged.
   24 Hour Events:
   Overnight continued resp distress and pain/ discomfort and fluctuating
   O2 requirements.
   Allergies:
   Penicillins
   Hives;
   Morphine
   Nausea/Vomiting
   Keppra (Oral) (Levetiracetam)
   poor concentrat
   Acetylcysteine
   Cough; Wheezing
   Last dose of Antibiotics:
   Cefazolin - [**2188-7-17**] 08:35 AM
   Vancomycin - [**2188-7-19**] 10:00 PM
   Cefipime - [**2188-7-20**] 07:42 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-7-19**] 11:29 PM
   Lorazepam (Ativan) - [**2188-7-20**] 07:42 AM
   Hydromorphone (Dilaudid) - [**2188-7-20**] 07:42 AM
   Other medications:
   RISS, Ciproflox, Hep sc, cefepime, vancomycin, albutreol, atrovent,
   protonix, ativan and dilaudid prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-7-20**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 126 (117 - 126) bpm
   BP: 114/54(69) {109/53(69) - 138/89(102)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                    883 mL
                                                                    215 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    643 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                  1,100 mL
   Urine:
                                                                    880 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      3 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ? thrush orally
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   central as well as polyphonic)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   340 K/uL
   108 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   7 mg/dL
   99 mEq/L
   135 mEq/L
   24.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2188-7-16**]  08:15 PM
                             [**2188-7-16**]  08:31 PM
                             [**2188-7-17**]  02:27 AM
                             [**2188-7-17**]  02:33 AM
                             [**2188-7-17**]  11:47 AM
                             [**2188-7-20**]  04:42 AM
   WBC
   6.7
   7.2
   12.7
   Hct
   27.2
   25.5
   25.0
   24.2
   Plt
   184
   174
   340
   Cr
   0.9
   0.8
   0.8
   TCO2
   30
   29
   Glucose
   135
   140
   108
   Other labs: PT / PTT / INR:12.7/29.6/1.1, Differential-Neuts:84.4 %,
   Lymph:5.5 %, Mono:9.2 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL7/10 CXR
   Imaging: [**7-18**] CXR- LLL infiltrate vs consol
   [**7-19**] CXR- bilateral interstitial infiltrates and LLL consolidation
   CT T-spine [**2188-7-19**]:
   1. Status post posterior fusion spanning from T5 to T12 with
   appropriate anatomical alignment, no evidence for hardware failure.
   Intervertebral cage device between T8/T9.
   2. Moderate-to-large left pleural effusions, small right pleural
   effusion with bibasilar dependent consolidations, left greater than
   right, concerning for pneumonia and pleural effusions.
   3. Status post left nephrectomy.
   Microbiology: [**7-19**] Urine and blood- pending
   ECG: [**7-19**] ECG- TWI V3, sinus tachy
   Assessment and Plan
   58 year old female with a history of metastatic renal caricnoma to the
   brain, spine and lungs who was admitted for planned vertebrectomy and
   reconstruction of T8 and T9 who postoperatively has developed fevers,
   tachycardia and imaging suggestive of pneumonia.
   Acute on chronic respiratory failure with superimposed nosocomial PNA
   s/p recent OR procedure and intubation with multiple lung resections,
   possible tumor spread
   Hospital Acquired Pneumonia:
   - vancomycin, cefepime, ciprofloxacin for hospital acquired pneumonia
   - chest PT
   - incentive spirometry
   - blood, sputum cultures
   - wean supplemental oxygen as tolerated
   Wheezing/ Bronchospasm: may be related to lypmhangitic spread vs
   infection
   - albuterol and ipratropium nebs standing Q6H
   - guaifenesin for cough (as well as narcotic as below)
   - will obtain CT torso (previously ordered for next week) and add CT
   neck given ? stridor
   Sepsis due to HAP as above:
   -hemdynamically stable
   -maint fluids today, monitor fever and clinical status
   -ABX as above
   s/p T8 + T9 vertebrectomy and reconstruction:  Patient is doing well
   post-operatively. CT T-spine yesterday with appropriate anatomical
   alignment, no evidence for hardware failure.
   - PT consult once respiratory status stable
   - per neurosurgery okay to restart subcutaneous heparin
   - dilaudid 2-4 mg PO Q4H:PRN for pain
   - f/u neurosurgery recommendations
   Metastatic Renal Cell Carcinoma:  Most recently taking evrolimus as
   part of the RAD001 protocol.  Per notes she had significant response to
   this medication but has been holding it prior to surgery.  She is
   followed by Dr. [**Last Name (STitle) **] as her primary oncologist.
   - continue aranesp
   - outpatient followup
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2188-7-19**] 08:04 PM
   20 Gauge - [**2188-7-19**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2188-07-21 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: LLL Pneumonia, Renal Cell Ca with mets
   24 Hour Events:
   Febrile to 102.6 yest afternoon. Stable on 4LNC.
   Feels breathing is better
   Allergies:
   Penicillins
   Hives;
   Morphine
   Nausea/Vomiting
   Keppra (Oral) (Levetiracetam)
   poor concentrat
   Acetylcysteine
   Cough; Wheezing
   Last dose of Antibiotics:
   Vancomycin - [**2188-7-20**] 07:57 PM
   Cefipime - [**2188-7-20**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-7-21**] 08:16 AM
   Lorazepam (Ativan) - [**2188-7-21**] 08:16 AM
   Hydromorphone (Dilaudid) - [**2188-7-21**] 08:16 AM
   Other medications:
   RISS, ciproflox, heparin sc, vancom IV, cefepime IV, albuterol,
   ipratropium, pantroprazole, Ducolax, prn lorazepam, Dilaudid prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-7-21**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.9
C (100.2
   HR: 125 (106 - 137) bpm
   BP: 126/65(80) {105/48(64) - 157/94(101)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                  1,601 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
                                                                    701 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    940 mL
   Urine:
                                                                  3,000 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilat, Wheezes :
   difufsely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   368 K/uL
   117 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.4 mEq/L
   8 mg/dL
   99 mEq/L
   137 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2188-7-16**]  08:15 PM
                             [**2188-7-16**]  08:31 PM
                             [**2188-7-17**]  02:27 AM
                             [**2188-7-17**]  02:33 AM
                             [**2188-7-17**]  11:47 AM
                             [**2188-7-20**]  04:42 AM
                             [**2188-7-21**]  05:00 AM
   WBC
   6.7
   7.2
   12.7
   10.3
   Hct
   27.2
   25.5
   25.0
   24.2
   23.7
   Plt
   184
   174
   340
   368
   Cr
   0.9
   0.8
   0.8
   0.8
   TCO2
   30
   29
   Glucose
   135
   140
   108
   117
   Other labs: PT / PTT / INR:12.7/29.6/1.1, Differential-Neuts:84.4 %,
   Lymph:5.5 %, Mono:9.2 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: CT neck ([**7-21**])- no clear airway narrowing
   CT torso ([**7-21**])- LUL and LLL consolidation with pleural effusion,
   R-sided scattered infiltrate
   Assessment and Plan
   58 year old female with a history of metastatic renal caricnoma to the
   brain, spine and lungs who was admitted for planned vertebrectomy and
   reconstruction of T8 and T9 who postoperatively has developed fevers,
   tachycardia and imaging suggestive of pneumonia.  Acute on chronic
   respiratory failure with superimposed nosocomial PNA s/p recent OR
   procedure and intubation with multiple lung resections, possible tumor
   spread.
    Hospital Acquired Pneumonia:
   - vancomycin, cefepime, ciprofloxacin for hospital acquired pneumonia
   will course out for a 10 day regimen (day 2 today)
   - incentive spirometry and OOB today
   - blood, sputum cultures
   - wean supplemental oxygen as tolerated
   Wheezing/ Bronchospasm: may be related to lypmhangitic spread vs
   infection
   - levo-albuterol and ipratropium nebs standing Q6H
   - guaifenesin for cough (as well as narcotic as below)
   -CT neck and torso unrevealing for central obstruction
   Tachycardia: attributing to multifocal pneumonia and underlying
   malignancy, postoperative status
   -for now will manage expectantly and per [**Doctor First Name **], transfuse 1u PRBC
   -need to keep in mind PE as a possible etiology (less likely at this
   point) and workup if clinically indicated
   s/p T8 + T9 vertebrectomy and reconstruction
   - PT consult once respiratory status stable
   - dilaudid 2-4 mg PO Q4H:PRN for pain
   - f/u neurosurgery recommendations
   Metastatic Renal Cell Carcinoma:  Most recently taking evrolimus as
   part of the RAD001 protocol. She is followed by Dr. [**Last Name (STitle) **] as her
   primary oncologist.
   - continue aranesp; clarify and resume equivalent Epogen in-house
   - Onc following
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2188-7-19**] 08:04 PM
   20 Gauge - [**2188-7-19**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2188-07-22 09:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Renal Cell carcinoma, LLL pneumonia S/P vertebrectomy
   24 Hour Events:
   febrile yest pm. received 1u PRBC yest.
   Allergies:
   Penicillins
   Hives;
   Morphine
   Nausea/Vomiting
   Keppra (Oral) (Levetiracetam)
   poor concentrat
   Acetylcysteine
   Cough; Wheezing
   Last dose of Antibiotics:
   Vancomycin - [**2188-7-21**] 08:31 PM
   Cefipime - [**2188-7-21**] 09:58 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2188-7-21**] 11:33 AM
   Heparin Sodium (Prophylaxis) - [**2188-7-21**] 09:21 PM
   Hydromorphone (Dilaudid) - [**2188-7-22**] 05:00 AM
   Other medications:
   RISS, Atrovent, Xopenex, pantoprazole, Dulcolax, Miralax
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-7-22**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.9
C (100.3
   HR: 111 (109 - 129) bpm
   BP: 116/93(99) {106/51(66) - 130/93(99)} mmHg
   RR: 17 (10 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                    784 mL
                  PO:
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  3,290 mL
                                                                    710 mL
   Urine:
                                                                  3,290 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,506 mL
                                                                   -710 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : scattered, Rhonchorous:
   scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   432 K/uL
   115 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.2 mEq/L
   11 mg/dL
   99 mEq/L
   136 mEq/L
   26.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2188-7-16**]  08:15 PM
                             [**2188-7-16**]  08:31 PM
                             [**2188-7-17**]  02:27 AM
                             [**2188-7-17**]  02:33 AM
                             [**2188-7-17**]  11:47 AM
                             [**2188-7-20**]  04:42 AM
                             [**2188-7-21**]  05:00 AM
                             [**2188-7-22**]  03:40 AM
   WBC
   6.7
   7.2
   12.7
   10.3
   9.3
   Hct
   27.2
   25.5
   25.0
   24.2
   23.7
   26.2
   Plt
   184
   174
   340
   368
   432
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   29
   Glucose
   135
   140
   108
   117
   115
   Other labs: PT / PTT / INR:12.7/29.6/1.1, Differential-Neuts:84.4 %,
   Lymph:5.5 %, Mono:9.2 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Microbiology: all cx neg to date
   Assessment and Plan
   58 year old female with a history of metastatic renal caricnoma to the
   brain, spine and lungs who was admitted for planned vertebrectomy and
   reconstruction of T8 and T9 who postoperatively has developed fevers,
   tachycardia and imaging suggestive of pneumonia.  Acute on chronic
   respiratory failure with superimposed nosocomial PNA s/p recent OR
   procedure and intubation with multiple lung resections, possible tumor
   spread.
     Hospital Acquired Pneumonia:
   - vancomycin, cefepime, ciprofloxacin for hospital acquired pneumonia
   will course out for a 10 day regimen (day 3 today)
   - incentive spirometry and OOB today
   - blood, sputum cultures
   - wean supplemental oxygen as tolerated
   Wheezing/ Bronchospasm: may be related to lypmhangitic spread vs
   infection
   - levo-albuterol and ipratropium nebs standing Q6H
   - guaifenesin for cough (as well as narcotic as below)
   -CT neck and torso unrevealing for central obstruction
   Tachycardia: attributing to multifocal pneumonia and underlying
   malignancy, postoperative status
   -better after 1U PRBCs
   -need to keep in mind PE as a possible etiology (less likely at this
   point) and workup if clinically indicated
   s/p T8 + T9 vertebrectomy and reconstruction
   - PT consult
   - dilaudid 2-4 mg PO Q4H:PRN for pain
   - f/u neurosurgery recommendations
   Metastatic Renal Cell Carcinoma:  Most recently taking evrolimus as
   part of the RAD001 protocol. She is followed by Dr. [**Last Name (STitle) **] as her
   primary oncologist.
   - continue aranesp; clarify and resume equivalent Epogen in-house
   - Onc following
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2188-7-21**] 11:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes